US06890947B2
In analogy to the procedures described in examples 36a) and 36b), (Z)-2-ethoxy-3-(1H-indol-5-yl)-acrylic acid ethyl ester [preparation 1a)] was reacted with 4-chloromethyl-2-(2-chloro-phenyl)-5-methyl-oxazole to give (Z)-3-{1-[2-(2-chloro-phenyl)-5-methyl-oxazol-4-ylmethyl]-1H-indol-5-yl}-2-ethoxy-acrylic acid ethyl ester, which was subsequently saponified to yield the title compound as colorless solid.

reactant | (Z)-2-ethoxy-3-(1H-indol-5-yl)-acrylic acid ethyl ester | C(C)OC(/C(=C/C=1C=C2C=CNC2=CC1)/OCC)=O | C15H17NO3
reactant | 4-chloromethyl-2-(2-chloro-phenyl)-5-methyl-oxazole | ClCC=1N=C(OC1C)C1=C(C=CC=C1)Cl | C11H9Cl2NO
product | (Z)-3-{1-[2-(2-chloro-phenyl)-5-methyl-oxazol-4-ylmethyl]-1H-indol-5-yl}-2-ethoxy-acrylic acid ethyl ester | C(C)OC(/C(=C/C=1C=C2C=CN(C2=CC1)CC=1N=C(OC1C)C1=C(C=CC=C1)Cl)/OCC)=O | C26H25ClN2O4
